US07666888B2
3-(4-fluorophenyl)-1-{[3-(4-methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-ol
A solution of 3-(4-fluorophenyl)pyrrolidin-3-ol (9 mg, 0.039 mmol), TBTU (15 mg, 0.047 mmol, 1.2 equ.) and N-ethyl-N-isopropylpropan-2-amine (14 μL, 0.079 mmol, 2 equ.) in DMF (0.3 mL) was added to 3-(4-methylphenyl)isoxazole-4-carboxylic acid (8 mg, 0.039 mmol) and the reaction mixture was stirred at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (10 mg). MS (ESI, pos. ion) m/z calcd for C21H19FN2O3: 366.1380, found 366.1381.

reactant | 3-(4-fluorophenyl)pyrrolidin-3-ol | 0.039 mmol, 9 mg | FC1=CC=C(C=C1)C1(CNCC1)O | C10H12FNO
reactant | TBTU | 0.047 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.079 mmol, 14 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.039 mmol, 8 mg | CC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C11H9NO3
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 3-(4-fluorophenyl)-1-{[3-(4-methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-ol | 10 mg | FC1=CC=C(C=C1)C1(CN(CC1)C(=O)C=1C(=NOC1)C1=CC=C(C=C1)C)O | C21H19FN2O3
